US07354934B2
Preparation of N-(5,6,7,8-Tetrahydro-quinolin-8yl)-butane-1,4-diamine
To a solution of 2-[4-(5,6,7,8-tetrahydro-quinolin-8-ylamino)-butyl]-isoindole-1,3-dione (15.0 g, 42.98 mmol) dissolved in ethanol (215 ml) was added hydrazine hydrate (13.4 ml). The solution was stirred for 16 hours at room temperature under a N2 atmosphere. A white precipitate formed. Diethyl ether (215 ml) was added and the mixture was stirred for 10 min then filtered and concentrated. Purification via column chromatography on silica gel (CH2Cl2:MeOH:NH4OH, 96:3:1, v/v/v) afforded the product as a brown oil (6.77 g, 74%). 1H NMR (CDCl3) δ 1.57 (m, 9H), 2.05 (m, 2H), 2.75 (m, 6H), 3.78 (t, 1H), 7.06 (dd, 1H, J=7.89, 4.82 Hz), 7.37 (d, 1H, J=7.89 Hz), 8.39 (d, 1H, J=4.82 Hz).

reactant | 2-[4-(5,6,7,8-tetrahydro-quinolin-8-ylamino)-butyl]-isoindole-1,3-dione | 42.98 mmol, 15.0 g | N1=CC=CC=2CCCC(C12)NCCCCN1C(C2=CC=CC=C2C1=O)=O | C21H23N3O2
reactant | hydrazine hydrate | 13.4 ml | O.NN
reactant | Diethyl ether | 215 ml | C(C)OCC | C4H10O
solvent | ethanol | 215 ml | C(C)O | C2H6O
product | N-(5,6,7,8-Tetrahydro-quinolin-8yl)-butane-1,4-diamine | 6.77 g, 74% | N1=CC=CC=2CCCC(C12)NCCCCN | C13H21N3
